US09034900B2
Step 3: 7-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-5-methylfuro[3,2-c]pyridin-4-one
The title compound was prepared in a manner similar to Example 197, by substituting 5-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)furo[3,2-c]pyridin-4-one for 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane and 2-bromo-1-(cyclopropylmethoxy)-4-methylsulfonylbenzene for 4-bromo-2-methyl-6-(trifluoromethyl)isoquinolin-1-one. 1H NMR (CDCl3, 400 MHz) δ 8.05 (s, 1H), 7.92 (dd, J1=8.6 Hz, J2=1.8 Hz, 1H), 7.50 (m, 2H), 7.07 (m, 2H), 3.95 (d, J=6.7 Hz, 2H), 3.70 (s, 3H), 3.1 (s, 3H), 1.15 (m, 1H), 0.57 (m, 2H), 0.28 (m, 2H). LCMS: 374.1 (M+H)+

reactant | 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C17H25BO5S
reactant | 2-bromo-1-(cyclopropylmethoxy)-4-methylsulfonylbenzene | BrC1=C(C=CC(=C1)S(=O)(=O)C)OCC1CC1 | C11H13BrO3S
reactant | 4-bromo-2-methyl-6-(trifluoromethyl)isoquinolin-1-one | BrC1=CN(C(C2=CC=C(C=C12)C(F)(F)F)=O)C | C11H7BrF3NO
product | 7-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-5-methylfuro[3,2-c]pyridin-4-one | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)C=1C2=C(C(N(C1)C)=O)C=CO2 | C19H19NO5S
